US04786646
As in Example 111, (S)-2,2-diphenylcyclopropanepropanoic acid (6.38 g) and 4-nitrophenol (4 g) in dichloromethane (100 mL) was treated with 1,3-dicyclohexylcarbodiimide (4.95 g) and the mixture was stirred at 25° C. for 1 hour. The crude ester, isolated in the usual way, was crystallized from 2-propanol to give 4.8 g of (S)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester. The analytical sample was obtained from the same solvent, mp 76°-77° C.; [α]D25 -93.53° (c, 1.0, MeOH).

reactant | (S)-2,2-diphenylcyclopropanepropanoic acid | 6.38 g | C1(=CC=CC=C1)C1([C@H](C1)CCC(=O)O)C1=CC=CC=C1 | C18H18O2
reactant | 4-nitrophenol | 4 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 4.95 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-2,2-diphenylcyclopropanepropanoic acid 4-nitrophenyl ester | 4.8 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC[C@@H]1C(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H21NO4
